US05418248
2-(5-Methylthien-2-yl)imidazo[2,1-b]benzothiazole-3-acetamide.
1.6 g (0.005 mole) of 2-(5-methylthien-2-yl)imidazo[2,1-b]-benzothiazole-3-acetic acid are treated, at room temperature, with 0.85 g (0.005 mole) of N,N'-carbonyldiimidazole in 30 ml of anhydrous tetrahydrofuran for 3 h 30 min. The mixture is cooled using an ice bath, an excess of ammonia in 10 ml of anhydrous tetrahydrofuran cooled to -10° C. is added, and the mixture is stirred for 4 h at room temperature. The solvent is evaporated under reduced pressure, the solid is collected by filtration, it is washed with water up to neutral pH, then with ethanol, and finally with ethyl ether. After recrystallization from methanol, 1 g of a beige compound is obtained. Melting point: 243°-245° C.

reactant | 2-(5-methylthien-2-yl)imidazo[2,1-b]-benzothiazole-3-acetic acid | 0.005 mole, 1.6 g | CC1=CC=C(S1)C=1N=C2SC3=C(N2C1CC(=O)O)C=CC=C3 | C16H12N2O2S2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(5-Methylthien-2-yl)imidazo[2,1-b]benzothiazole-3-acetamide | 1 g | CC1=CC=C(S1)C=1N=C2SC3=C(N2C1CC(=O)N)C=CC=C3 | C16H13N3OS2
